US04668695
A solution of 5.6 g of 2-chloro-11-[β-(N-methyl-N-phenoxycarbonylamino)ethylthio]dibenzo[b,f]thiepin, Example 6, 127 ml of ethylene glycol and 10.8 g of potassium hydroxide is stirred at 150°-155° C. for 30 minutes. Thereafter the reaction mixture is poured onto 300 ml of ice-water and the aqueous mixture is extracted with an ether-toluene (1:1) mixture. The combined extracts, successively, are washed well with water, dried and filtered and the filtrate evaporated leaving an orange oil. The oil is converted to its hydrogen chloride acid salt which is recrystallized from a methanol-acetone-ether mixture to give the product, mp 194°-196° C. of 2-chloro-11-[β-(methylamino)ethylthio]dibenzo[b,f]thiepin hydrochloride.

reactant | 2-chloro-11-[β-(N-methyl-N-phenoxycarbonylamino)ethylthio]dibenzo[b,f]thiepin | 5.6 g | ClC1=CC2=C(SC3=C(C=C2SCCN(C(=O)OC2=CC=CC=C2)C)C=CC=C3)C=C1 | C24H20ClNO2S2
reactant | potassium hydroxide | 10.8 g | [OH-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethylene glycol | 127 ml | C(CO)O | C2H6O2
product | 2-chloro-11-[β-(methylamino)ethylthio]dibenzo[b,f]thiepin hydrochloride | Cl.ClC1=CC2=C(SC3=C(C=C2SCCNC)C=CC=C3)C=C1 | InChI=1S/C17H16ClNS2.ClH/c1-19-8-9-20-17-10-12-4-2-3-5-15(12)21-16-7-6-13(18)11-14(16)17;/h2-7,10-11,19H,8-9H2,1H3;1H
